* c:\users\shanthipriya\esim-workspace\13_nand_ic5\13_nand_ic5.cir

.include 133.sub
* u9  a1 a2 a3 a4 a5 a6 a7 a8 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ adc_bridge_8
* u13  net-_u13-pad1_ out dac_bridge_1
v1  a1 gnd pulse(0 5 0 1n 1n 1u 2u)
v2  a2 gnd pulse(0 5 0 1n 1n 2u 4u)
v3  a3 gnd pulse(0 5 0 1n 1n 4u 8u)
v4  a4 gnd pulse(0 5 0 1n 1n 8u 16u)
v5  a5 gnd pulse(0 5 0 1n 1n 16u 32u)
v6  a6 gnd pulse(0 5 0 1n 1n 32u 64u)
v7  a7 gnd pulse(0 5 0 1n 1n 64u 128u)
v8  a8 gnd pulse(0 5 0 1n 1n 128u 256u)
* u17  out plot_v1
* u1  a1 plot_v1
* u2  a2 plot_v1
* u3  a3 plot_v1
* u4  a4 plot_v1
* u5  a5 plot_v1
* u6  a6 plot_v1
* u7  a7 plot_v1
* u8  a8 plot_v1
* u10  a9 a10 a11 a12 a13 net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ adc_bridge_5
v9  a9 gnd pulse(0 5 0 1n 1n 256u 512u)
v10  a10 gnd pulse(0 5 0 1n 1n 512u 1024u)
v11  a11 gnd pulse(0 5 0 1n 1n 1024u 2048u)
v12  a12 gnd pulse(0 5 0 1n 1n 2048u 4096u)
v13  a13 gnd pulse(0 5 0 1n 1n 4096u 16192u)
* u11  a13 plot_v1
* u12  a12 plot_v1
* u14  a11 plot_v1
* u15  a10 plot_v1
* u16  a9 plot_v1
x1 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u13-pad1_ 133
a1 [a1 a2 a3 a4 a5 a6 a7 a8 ] [net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ ] u9
a2 [net-_u13-pad1_ ] [out ] u13
a3 [a9 a10 a11 a12 a13 ] [net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ ] u10
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 50e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)+6 v(a1)+12v(a2)+18v(a3)+24 v(a4)+30 v(a5)+36 v(a6)+42 v(a7)+48 v(a8)+54 v(a13)+60 v(a12)+66 v(a11)+72 v(a10)+78 v(a9)
.endc
.end
